US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[2-FLUORO-5-(1H-PYRROL-2-YL)BENZYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 2-(4-fluoro-3-formyl-phenyl)-pyrrole-1-carboxylic acid tert-butylamide according to the procedure of Example 66. MS (ES) m/z 552.0;

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2-(4-fluoro-3-formyl-phenyl)-pyrrole-1-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)N1C(=CC=C1)C1=CC(=C(C=C1)F)C=O | C16H17FN2O2
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[2-FLUORO-5-(1H-PYRROL-2-YL)BENZYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC(=C1)C=1NC=CC1)F)C(F)(F)F | C34H25F4N3
